US07807673B2
Step C: 4-Methyl-5-(3-nitrophenyl)-1,3-oxazole
To a cooled (0° C.) solution of 3-{[1-(isocyanoethyl)ethyl]sulfonyl}aniline (60 g, 0.287 mol) in dry MeOH (800 mL), was added dry powdered K2CO3 and stirred at rt for 1 h. The reaction mixture was re-cooled to 0° C. and 3-nitro benzaldehyde (43 g, 0.287 mol) added. The reaction mixture was warmed to rt, followed by heating at 55° C. overnight with stirring. The excess solvent was removed under reduced pressure, the residue was dissolved in water (100 mL) and extracted with EtOAc (3×350 mL). The combined organic layers were washed with brine, water, dried over anhydrous Na2SO4 and concentrated. The crude product was purified by silica get (60-120 mesh) column chromatograph using 15% EtOAc in petroleum-ether to yield product as yellow solid. Yield 50 g (86%).

reactant | 3-{[1-(isocyanoethyl)ethyl]sulfonyl}aniline | 0.287 mol, 60 g | [N+](#[C-])CCC(C)S(=O)(=O)C=1C=C(N)C=CC1 | C11H14N2O2S
reactant | 3-nitro benzaldehyde | 0.287 mol, 43 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | 800 mL | CO | CH4O
product | 4-Methyl-5-(3-nitrophenyl)-1,3-oxazole | CC=1N=COC1C1=CC(=CC=C1)[N+](=O)[O-] | C10H8N2O3
